US06071927
5-Benzyloxy-2-isopropoxyiodobenzene
Sodium nitrite (589 mg, 8.5 mmol) in water (2.5 mL) was added dropwise to a stirred, cooled (0° C.) suspension of 5-benzyloxy-2-isopropoxybenzeneamine (Description 109, 2.05 g, 8.4 mmol) in aqueous sulfuric acid (2M, 14 mL). The mixture was stirred at 0° C. for 30 min., then added dropwise to a stirred, cooled (0° C.) solution of potassium iodide (2.50 g, 15.1 mmol) in water (10 mL). The mixture was stirred at room temperature for 90 min., then water (50 mL) was added. The mixture was extracted with ethyl acetate (3×50 mL). The combined organic fractions were washed with aqueous sodium thiosulfate (10%, 2×50 mL), hydrochloric acid (2M, 2×50 mL), saturated aqueous sodium hydrogen carbonate (2×50 mL), and brine (50 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/CH2Cl2 (80:20), to give the title compound as a cream solid (1.49 g, 48%). 1H NMR (360 MHz, CDCl3) δ 7.42-7.30 (6H, m), 6.90 (1H, dd, J 9.0, 2.9 Hz), 6.77 (1H, d, J 9.0 Hz), 4.98 (2H, s), 4.41 (1H, hept, J 6.1 Hz), and 1.35 (6H, d, J 6.1 Hz).

reactant | Sodium nitrite | 8.5 mmol, 589 mg | N(=O)[O-].[Na+]
reactant | 5-benzyloxy-2-isopropoxybenzeneamine | 8.4 mmol, 2.05 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)N)OC(C)C | C16H19NO2
reactant | potassium iodide | 15.1 mmol, 2.50 g | [I-].[K+]
solvent | water | 2.5 mL | O | H2O
solvent | sulfuric acid | 2M, 14 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 5-Benzyloxy-2-isopropoxyiodobenzene | 1.49 g, 48% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)I)OC(C)C | C16H17IO2
